US03968227
1,3-bis-[N'-(2-(5-Methyl-4-imidazolylmethylthio)ethyl)guanidino]propane
1,3-Diaminopropane (0.37g) was added to a solution of S-methyl-N-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiouronium sulphate (2.93g) in water (10 ml) and the mixture was heated under reflux for 2 hours. Following concentration the residue was converted into the picrate with an aqueous solution of sodium picrate. Recrystallization from ethanol afforded the title compound as the dipicrate (1.1 g) m.p. 114°-6°.

reactant | 1,3-Diaminopropane | 0.37g | NCCCN | C3H10N2
reactant | S-methyl-N-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiouronium sulphate | 2.93g | S(=O)(=O)([O-])[O-].CSC(=[NH+]CCSCC=1N=CNC1C)N.CSC(=[NH+]CCSCC=1N=CNC1C)N
solvent | water | 10 ml | O | H2O
product | 1,3-bis-[N'-(2-(5-Methyl-4-imidazolylmethylthio)ethyl)guanidino]propane | CC1=C(N=CN1)CSCCN=C(NCCCNC(=NCCSCC=1N=CNC1C)N)N | C19H34N10S2
